US05658922
3 -Acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene-7-one
To a solution of 3-acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene (337 gm, 0.71 mol) in methyl ethyl ketone (4 L) was added N-hydroxyphthalimide (115.8 gm, 0.71 mol) and dibenzoyl peroxide (1.1 gm, 4.4 mmol). Air was bubbled through the reaction as the reaction was refluxed for 7.5 hr. Additional N-hydroxyphthalimide (9 gm) and dibenzoyl peroxide (0.1 gm) was added and reflux continued for 5 hr. The solvent was removed by rotoevaporation and methylene chloride (0.7 L) was added and warmed to 40° C. Upon cooling to room temperature, the suspension was filtered and the filtrate washed with methylene chloride (0.2 L). The filtrate was rotoevaporated and treated with pyridine (1.35 L) and acetic anhydride (135 mL). After stirring overnight, the solvent was removed by rotoevaporation and the dark orange oil dissolved in methanol (0.6 L). The mixture was heated to 50° C. and then cooled to room temperature. The solution was allowed to stand for 3 days and then cooled in an ice bath. The precipitant was filtered, washed with methanol, and dried to yield the title compound (110.6 gm, 32% yield). The filtrate was rotoevaporated to a dry gum to yield 253 gm of the crude product.

reactant | 3-acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene | 0.71 mol, 337 gm | C(C)(=O)OC1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)O[Si](C)(C)C(C)(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H50O3Si
reactant | N-hydroxyphthalimide | 0.71 mol, 115.8 gm | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | methyl ethyl ketone | 4 L | C(C)C(=O)C | C4H8O
catalyst | dibenzoyl peroxide | 4.4 mmol, 1.1 gm | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3 -Acetoxy-20-tert-butyldimethylsilyloxy-pregn-5-ene-7-one | 110.6 gm, 32% yield | C(C)(=O)OC1CC2=CC([C@H]3[C@@H]4CC[C@H](C(C)O[Si](C)(C)C(C)(C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O | C29H48O4Si
